US06420349B1
Methyl 2-(4-{4-[(t-butyl)oxycarbonyl]piperazinyl}phenyl)acetate
A flask charged with cesium carbonate (4.6 g, 14.0 mmol), palladium (II) acetate (0.07 g, 0.3 mmol), and (S)-BINAP (0.28 g, 4.5 mmol) was evacuated and flushed with dry nitrogen. Methyl 2-{4-[(trifluoromethyl)sulfonyloxy]phenyl}acetate (3.0 g, 10.0 mmol) and t-butyl-1-piperazinecarboxylate (2.3 g, 12.0 mmol) in 20 mL toluene was added via syringe and the resultant mixture was stirred at ambient temperature for 30 minutes and at 80° C. for 16 hours. The reaction mixture was removed from the heating bath, concentrated, and chromatographed on silica gel (0 to 30% ethyl acetate/hexane) providing 1.7 g (50%) of the title compound. 1H NMR (300 MHz, CDCl3) δ7.20 (d, J=8.5 Hz, 2H), 6.89 (d, J=8.4 Hz, 2H), 3.70 (s, 3H), 3.59 (t, J=5.0 Hz, 4H), 3.57 (s, 2H), 3.12 (t, J=5.2 Hz, 4H), 1.50 (s, 9H); ESI (M+H)+=335.

reactant | cesium carbonate | 14.0 mmol, 4.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-BINAP | 4.5 mmol, 0.28 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | Methyl 2-{4-[(trifluoromethyl)sulfonyloxy]phenyl}acetate | 10.0 mmol, 3.0 g | FC(S(=O)(=O)OC1=CC=C(C=C1)CC(=O)OC)(F)F | C10H9F3O5S
reactant | t-butyl-1-piperazinecarboxylate | 12.0 mmol, 2.3 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 0.3 mmol, 0.07 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 2-(4-{4-[(t-butyl)oxycarbonyl]piperazinyl}phenyl)acetate | 1.7 g, 50% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)CC(=O)OC | C18H26N2O4
